US08859777B2
To a solution of tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate (2.00 g, 6.40 mmol) in methylene chloride (100 mL) was cooled in an ice/salt bath and a solution of diethylaminosulfur trifluoride (1.24 g, 7.68 mmol) in methylene chloride (10 mL) added drop-wise over 1 hour. The resulting solution was then stirred for 14 hours during which time it slowly warmed to room temperature. After this time the reaction was quenched by the cautious addition of saturated sodium bicarbonate (50 mL) and the layers separated. The aqueous layer was extracted with ethyl acetate (50 mL) and the combined organics dried over magnesium sulfate. Subsequent filtration and concentration under reduced pressure afforded crude tert-butyl 4-(4-chlorophenyl)-4-fluoropiperidine-1-carboxylate as a viscous yellow oil. This material was immediately dissolved in 10% methanolic hydrogen chloride (100 mL) and the resulting yellow solution stirred at room temperature for 64 hours then concentrated under reduced pressure. The resulting dark yellow oil was triturated with ethyl acetate (100 mL) for 4 hours after which time a white crystalline solid resulted. This material was isolated by filtration and vacuum dried for 3 hours to afford 4-(4-chlorophenyl)-4-fluoropiperidine hydrochloride in 73% overall yield.

reactant | tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | 6.40 mmol, 2.00 g | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
reactant | diethylaminosulfur trifluoride | 7.68 mmol, 1.24 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-chlorophenyl)-4-fluoropiperidine-1-carboxylate | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)F | C16H21ClFNO2
